US07074794B2
Piperazine (24.0 g) was melted by heating at 140° C. and 2,3,5-trichloropyridine (5.00 g) was added thereto. The mixture was stirred at 120° C. for 2 hr. Water was added to the reaction mixture and the mixture was extracted with chloroform. The extract was washed with brine, dried and concentrated under reduced pressure to give 1-(3,5-dichloro-2-pyridyl)piperazine (6.43 g) as a brown solid.

reactant | Piperazine | 24.0 g | N1CCNCC1 | C4H10N2
reactant | 2,3,5-trichloropyridine | 5.00 g | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
solvent | Water | O | H2O
product | 1-(3,5-dichloro-2-pyridyl)piperazine | 6.43 g | ClC=1C(=NC=C(C1)Cl)N1CCNCC1 | C9H11Cl2N3
